US05093328
(2S,4S)-1-Methyl-2-aminocarbonyl-4-acetylthiopyrrolidine (201 mg) was dissolved in methanol (2.4 ml), and a solution of sodium methoxide (54 mg) in methanol (1.2 ml) was added thereto at room temperature under nitrogen stream, followed by stirring at the same temperature for 5 minutes. To the reaction mixture, conc. hydrochloric acid (240 mg) was added, and the solvent was removed. The residue was dissolved in a mixture of chloroform and methanol (4:1) and dried over magnesium sulfate. Removal of the solvent gave (2S,4S)-1-methyl-2-aminocarbonyl-4-mercaptopyrrolidine hydrochloride.

reactant | (2S,4S)-1-Methyl-2-aminocarbonyl-4-acetylthiopyrrolidine | 201 mg | CN1[C@@H](C[C@@H](C1)SC(C)=O)C(=O)N | C8H14N2O2S
reactant | sodium methoxide | 54 mg | C[O-].[Na+]
reactant | hydrochloric acid | 240 mg | Cl | ClH
solvent | methanol | 2.4 ml | CO | CH4O
solvent | methanol | 1.2 ml | CO | CH4O
product | (2S,4S)-1-methyl-2-aminocarbonyl-4-mercaptopyrrolidine hydrochloride | Cl.CN1[C@@H](C[C@@H](C1)S)C(=O)N | InChI=1S/C6H12N2OS.ClH/c1-8-3-4(10)2-5(8)6(7)9;/h4-5,10H,2-3H2,1H3,(H2,7,9);1H/t4-,5-;/m0./s1
